US04659727
A stirred solution of 1-phenylsulphonylpropyne (0.25 g) in anhydrous methanol (10 ml) was treated with 4-anisidine (0.17 g) and the homogeneous mixture was allowed to stand at room temperature overnight. The methanol was removed in vacuo to give 1-(4-methoxyphenylamino)-1-methyl-2-(phenylsulphonyl)ethene (0.4 g) in the form of a dark brown oil [NMR (in deuterated dimethylsulphoxide: 2.16, 3.76, 7.04, 7.62, 7.84, 8.68 ppm].

reactant | 1-phenylsulphonylpropyne | 0.25 g | C1(=CC=CC=C1)S(=O)(=O)C#CC | C9H8O2S
reactant | 4-anisidine | 0.17 g | COC1=CC=C(C=C1)N | C7H9NO
solvent | methanol | 10 ml | CO | CH4O
product | 1-(4-methoxyphenylamino)-1-methyl-2-(phenylsulphonyl)ethene | 0.4 g | COC1=CC=C(C=C1)NC(=CS(=O)(=O)C1=CC=CC=C1)C | C16H17NO3S
